Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cat Bite
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a healthy ___ year old male who presents to
___ after suffering a cat bite four days ago on the volar and
dorsal aspect of the patient's thumb. Patient states pain,
swelling was stable up until yesterday when it acutely worsening
and began to have proximally tracking erythema. Patient 
presented
to an urgent care clinic where he receive IV unasyn, tetanus 
shot
and then sent to ___ ED for further care. At time of
examination patient denies fever, chills, nausea, vomiting,
diarrhea.   Denies any numbness/tingling distally. Patient has
had some drainage from the bite hole over past 24 hours. 
 
Past Medical History:
Hyperlipidemia 
 
Social History:
___
Family History:
Dad - died of emphysema
Mom - died of MI at age ___
2 daughters, one with TrilMono6
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - Tm 98.4, BP 125-141/88, HR 70, RR 18, O2 SAT 99% RA
General:  NAD, resting comfortably in bed
HEENT: Sclera unremarkable, EOMI, PERRL, MMM
Neck:  Supple, no LAD, no JVP
CV:  RRR no murmurs, rubs or gallops
Lungs:  CTAB, no wheezes, rales, or rhonchi 
Abdomen:  Soft, non-tender, non-distended, +BS, no rebound or 
___
GU:  Deferred
Ext: warm, well-perfused, no ___ edema
MSK R HAND: Warm, well-perfused, strength ___ in all digits, 
area of erythema well within marks from last exam, bandage in 
place (dry and intact with some blood but not soaked through)
Neuro:  grossly normal
Skin:  warm, well-perfused, no rashes

DISCHARGE PHYSICAL EXAM:
VS - Tmax 98.5  125-140 / ___  ___  18  95 -97 RA
General:  NAD, resting comfortably in bed
HEENT: Sclera unremarkable, EOMI, PERRL, MMM
Neck:  Supple, no LAD, no JVP
CV:  RRR no murmurs, rubs or gallops
Lungs:  CTAB, no wheezes, rales, or rhonchi 
Abdomen:  Soft, non-tender, non-distended, +BS, no rebound or 
___
GU:  Deferred
Ext: warm, well-perfused, no ___ edema
MSK R HAND: Warm, well-perfused, strength ___ in all digits, 
area of erythema well within marks from last exam, bandage in 
place (clean, dry, and intact)
Neuro:  grossly normal
Skin:  warm, well-perfused, no rashes

 
Pertinent Results:
ADMISSION LABS:
___ 08:40PM BLOOD WBC-10.5* RBC-4.84 Hgb-15.0 Hct-43.4 
MCV-90 MCH-31.0 MCHC-34.6 RDW-11.9 RDWSD-38.4 Plt ___
___ 08:40PM BLOOD Neuts-73.7* Lymphs-14.4* Monos-10.0 
Eos-1.2 Baso-0.6 Im ___ AbsNeut-7.77* AbsLymp-1.52 
AbsMono-1.05* AbsEos-0.13 AbsBaso-0.06
___ 08:40PM BLOOD Plt ___
___ 08:40PM BLOOD Glucose-84 UreaN-15 Creat-1.0 Na-143 
K-4.5 Cl-105 HCO3-24 AnGap-19
___ 06:36AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.2
___ 11:55PM BLOOD Lactate-1.3

MICRO:
___: Blood Cultures: NGTD
___: Wound Culture: Mixed flora, PASTEURELLA MULTOCIDA: MODERATE 
GROWTH. ANAEROBIC CULTURE (Preliminary): NO ANAEROBES ISOLATED. 

IMAGING:  
___ Hand XR: Outside Urgent Care (no read at this time)

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-6.4 RBC-5.18 Hgb-16.4 Hct-46.4 MCV-90 
MCH-31.7 MCHC-35.3 RDW-11.9 RDWSD-39.2 Plt ___
___ 07:40AM BLOOD Plt ___
___ 07:40AM BLOOD Glucose-92 UreaN-15 Creat-1.0 Na-142 
K-4.3 Cl-106 HCO3-26 AnGap-14
___ 07:40AM BLOOD Calcium-9.0 Phos-2.2* Mg-2.3
 
Brief Hospital Course:
The patient is a ___ year-old male with no significant past 
medical history who presented 5 days after a cat bite with 
cellulitis/fasciitis. He was treated with IV antibiotics and did 
not require surgery. Was discharged home on course of oral 
augmentin. 

# Hand cellulitis/fasciitis:
The patient was found to have cellulitis and fasciitis in the 
emergency department, and hand surgery was consulted to perform 
cleaning, packing, and dressing. The patient was started on IV 
ampicillin-sulbactam (day 1 = ___ and received a tetanus 
booster. His last tetanus vaccination was ___, and his cat 
was up to date on rabies vaccination. His wound continued to 
improve and he was discharged in stable condition. He should 
follow up with hand surgery. He should continue a 7 day course 
of Augmentin to end on ___.

#Hyperlipidemia: Continued home simvastatin 

TRANSITIONAL ISSUES:
- The patient should continue a 7 day course of Augmentin (end 
date ___. 
- The patient should follow up with hand surgery. Wound care for 
home was discussed with the patient at discharge.
- Pending Cultures: Please follow up Blood Culture x 2 ___, 
___, which were pending at the time of discharge.

CODE: Full 
CONTACT: wife, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Ascorbic Acid ___ mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Simvastatin 40 mg PO QPM 
2. Ascorbic Acid ___ mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice daily Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Cellulitis/Fasciitis

Secondary Diagnosis: Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
because you had a cat bite that looked infected. Cat bites can 
sometimes carry harmful bacteria, so you were started on 
antibiotics and our hand surgeons cleaned out your wounds. By 
the time you were ready to go home, your infection looked much 
improved. You were also evaluated by the Hand Surgeons, and you 
will be following up with them in clinic to continued management 
of your wound. 

When you go home, remember to continue taking your antibiotics 
as directed. Also, remember to follow up with your primary care 
doctor as well as with our hand surgeons. 

Thank you for allowing us to care for you here,
Your ___ care team
 
Followup Instructions:
___